US05624950
To a solution of 1.66 g of 2-methoxyphenylacetic acid in 40 cm3 of dichloromethane are added, at 4° C., 1.62 g of N,N'-carbonyldiimidazole. Stirring for 30 minutes at room temperature is followed by dropwise addition of a solution containing 1.85 g of (3aRS,7SR,7aRS)-7-methyl-7-phenyl-4-perhydroisoindolone hydrochloride and 0.7 g of triethylamine in 30 cm3 of dichloromethane. After stirring for 2 hours, the reaction mixture is washed twice with 50 cm3 of water and then with 50 cm3 of saturated aqueous sodium chloride solution. The organic phase is separated out after settling has taken place, dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a column of silica gel (particle size 0.04-0.06 mm, diameter 3 cm, height 15 cm), eluting under a pressure of 0.5 bar of nitrogen with a mixture of cyclohexane and ethyl acetate (80/20 by volume) and collecting 50 cm3 fractions. Fractions 16 to 60 are combined and then concentrated to dryness under reduced pressure (2.5 kPa). The residue is crystallized in 30 cm3 of ethyl acetate. 1.3 g of (3aRS,7SR,7aRS)-7-methyl-7-phenyl-2-[(2-methoxyphenyl)acetyl]-4-perhydroisoindolone are obtained, in the form of white crystals melting at 160° C.

reactant | 2-methoxyphenylacetic acid | 1.66 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | (3aRS,7SR,7aRS)-7-methyl-7-phenyl-4-perhydroisoindolone hydrochloride | 1.85 g | Cl.CC1(CCC(C2CNCC12)=O)C1=CC=CC=C1
reactant | triethylamine | 0.7 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 cm3 | ClCCl | CH2Cl2
solvent | dichloromethane | 30 cm3 | ClCCl | CH2Cl2
product | (3aRS,7SR,7aRS)-7-methyl-7-phenyl-2-[(2-methoxyphenyl)acetyl]-4-perhydroisoindolone | 1.3 g | CC1(CCC(C2CN(CC12)C(CC1=C(C=CC=C1)OC)=O)=O)C1=CC=CC=C1 | C24H27NO3
